US07728023B2
(1E)-(7-bromo-1-methyl-1H-indol-2-yl)(oxo)ethanal hydrazone
To a dichloromethane (2 mL) solution of 7-bromo-1-methyl-1H-indole-2-carboxylic acid (200 mg), oxalyl dichloride (0.10 mL) and N,N-dimethylformamide (5 mL) were added and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated, azeotroped twice with toluene to obtain a crude product of 7-bromo-1-methyl-1H-indole-2-carboxylic acid chloride. Separately, a solution was prepared by dissolving 2M trimethylsilyldiazomethane (0.60 mL) and trimethylamine (0.16 mL) in tetrahydrofuran (2 mL)-acetonitrile (2 mL) and a tetrahydrofuran (1 mL)acetonitrile (1 mL) solution of 7-bromo-1-methyl-1H-indole-2-carboxylic acid chloride was added thereto, and then the mixture was stirred at room temperature for 4 hours. To the reaction mixture, an aqueous saturated ammonium chloride solution was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous sodium sulfate and then concentrated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=90:10 85:15) to obtain the titled compound having the following physical properties (72 mg).

reactant | trimethylsilyldiazomethane | 2M, 0.60 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | trimethylamine | 0.16 mL | CN(C)C | C3H9N
reactant | 7-bromo-1-methyl-1H-indole-2-carboxylic acid chloride | BrC=1C=CC=C2C=C(N(C12)C)C(=O)Cl | C10H7BrClNO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (1E)-(7-bromo-1-methyl-1H-indol-2-yl)(oxo)ethanal hydrazone | BrC=1C=CC=C2C=C(N(C12)C)C(/C=N/N)=O | C11H10BrN3O
